US07750154B2
N-Cyclopropyl-4-methyl-3-[6-[(1-methylpiperidin-4-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12233712)
N-Cyclopropyl-4-methyl-3-[4-oxo-6-(piperidin-yloxy)quinazolin-3(4H)-yl]benzamide (0.3 g), iodomethane (0.044 ml) and potassium carbonate (0.397 g) were stirred in DMF (2 ml) for 18 hours at room temperature. The reaction mixture was diluted with ethyl acetate and the organic phase was washed with water (5×), brine (2×), dried (magnesium sulfate) and concentrated. The residue was dissolved in methylene chloride (2 ml) and stirred with PS-isocyanate resin (1.25 mmol/g) (0.28 g) and MP-carbonate (2.89 mmol/g) (0.488 g) for 19 hours and then filtered and concentrated to yield the title compound (0.129 g) as a cream solid; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.69 (m, 2H), 1.70 (m, 2H), 1.97 (m, 2H), 2.13 (s, 3H), 2.19 (s, 3H), 2.22 (m, 2H), 2.60 (m, 2H), 2.85 (m, 1H), 4.55 (m, 1H), 7.51 (d, 1H), 7.52 (d, 1H), 7.59 (s, 1H), 7.72 (d, 1H), 7.82 (s, 1H), 7.90 (d, 1H), 8.17 (s, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 433.

reactant | N-Cyclopropyl-4-methyl-3-[4-oxo-6-(piperidin-yloxy)quinazolin-3(4H)-yl]benzamide | 0.3 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)ON1CCCCC1)=O | C24H26N4O3
reactant | iodomethane | 0.044 ml | IC | CH3I
reactant | potassium carbonate | 0.397 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-4-methyl-3-[6-[(1-methylpiperidin-4-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide | 0.129 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC1CCN(CC1)C)=O | C25H28N4O3
